US09388189B2
b) 4-Fluoro-N-(3-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)benzenesulfonamide
N-(3-Bromo-5-hydroxyphenyl)-4-fluorobenzenesulfonamide (507 mg, 1.46 mmol), bis(pinacolato)diboron (558 mg, 2.20 mmol), potassium acetate (435 mg, 4.43 mmol), and bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (121 mg, 0.15 mmol) were suspended in dioxane (14 ml) and heated to 100° C. for 4.5 h. After usual work-up with water and ethyl acetate, the reaction crude was purified by flash chromatography using SP1® Purification System (0% to 50%, dichloromethane-ethyl acetate) to obtain 349 mg of the title compound as an oil. (60% yield). Purity: 100%.

reactant | N-(3-Bromo-5-hydroxyphenyl)-4-fluorobenzenesulfonamide | 1.46 mmol, 507 mg | BrC=1C=C(C=C(C1)O)NS(=O)(=O)C1=CC=C(C=C1)F | C12H9BrFNO3S
reactant | bis(pinacolato)diboron | 2.20 mmol, 558 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 4.43 mmol, 435 mg | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | dioxane | 14 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Fluoro-N-(3-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)benzenesulfonamide | 349 mg, 60% yield | FC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C18H21BFNO5S
